US06114532
f. 4-[(5-(N-methyl-naphthalen-1-yl-aminocarbonyl)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzonitrile
483 mg (3.0 mmol) of 4-cyanophenylacetic acid and 486 mg (3.0 mmol) of carbonyldiimidazole are dissolved in 20 ml tetrahydrofuran and stirred for 1 hour at 50° C. Then 916 mg 5-(naphthalen-1-yl-methylaminocarbonyl)-2-methylamino-aniline are added thereto and stirring is continued for a further 3 hours at 50° C. The solvent is concentrated by evaporation, the residue is combined with 30 ml glacial acetic acid and refluxed for 1 hour. After evaporation of the solvent the filtrate is chromatographed on silica gel, eluting with methylene chloride/ethanol 99:1, 98:1 and 97:1. The desired fractions are concentrated by evaporation, the residue is triturated with acetone/ether, suction filtered and dried.

reactant | 4-cyanophenylacetic acid | 3.0 mmol, 483 mg | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
reactant | carbonyldiimidazole | 3.0 mmol, 486 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-(naphthalen-1-yl-methylaminocarbonyl)-2-methylamino-aniline | 916 mg | C1(=CC=CC2=CC=CC=C12)N(C(=O)C=1C=CC(=C(N)C1)NC)C | C19H19N3O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-[(5-(N-methyl-naphthalen-1-yl-aminocarbonyl)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzonitrile | CN(C(=O)C1=CC2=C(N(C(=N2)CC2=CC=C(C#N)C=C2)C)C=C1)C1=CC=CC2=CC=CC=C12 | C28H22N4O
